US08198466B2
Step D: 6-Methoxy-2-methyl-3-(3,4,5-trimethoxybenzoyl)benzo[b]thiophene
To a mixture of 6-methoxy-2-methylbenzo[b]thiophene (0.024 g; 0.132 mmol) and 3,4,5-trimethoxybenzoyl chloride (0.052 g; 0.225 mmol) in 1,2-dichloroethane (1 ml) SnCl4 (0.023 ml) was added. The resulting mixture was stirred for 1 h at 40° C., quenched with H2O (1 ml), diluted to 15 ml with diethyl ether, washed with 5% NaHCO3 (5 ml), brine (10 ml), dried over anhydrous MgSO4, filtered and filtrate evaporated to dryness under reduced pressure. The residue was purified by flash column chromatography (SiO2; hexane/ethyl acetate 9:1) to give pure title compound (0.020 g; 41%) as a colourless crystals. 1H-NMR(CDCl3) 2.47 (s, 3H); 3.8 (s, 6H); 3.84 (s, 3H); 3.93 (s, 3H); 6.90 (dd, 1H, J=2.4, 8.89 Hz); 7.1 (s, 2H); 7.24 (d, 1H, J=2.4 Hz); 7.42 (d, 1H, J=8.89 Hz).

reactant | 6-methoxy-2-methylbenzo[b]thiophene | 0.132 mmol, 0.024 g | COC=1C=CC2=C(SC(=C2)C)C1 | C10H10OS
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.225 mmol, 0.052 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 6-Methoxy-2-methyl-3-(3,4,5-trimethoxybenzoyl)benzo[b]thiophene | 0.020 g, 41% | COC=1C=CC2=C(SC(=C2C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C)C1 | C20H20O5S
